US06043254
3-{1-ethoxy-1-phenylmethylidene}-5-nitro-2-indolinone
1.5 equivalents of 1N sodium hydroxide solution are added dropwise to a stirred mixture of 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-5-nitro-2-indolinone in methylene chloride (11 ml/g) and EtOH (8.5 ml/g) whilst cooling with ice so that the internal temperature does not exceed 14 to 17° C. Then stirring is continued for 0.5 hours at ambient temperature and the methylene chloride is eliminated by evaporation in vacuo at a bath temperature of 30° C. Water is added (11 ml/g) and the mixture is thoroughly stirred. The precipitate is filtered, washed with water, isopropanol and lastly with ether and dried at 100° C.

reactant | sodium hydroxide | 1N, 1.5 equivalents | [OH-].[Na+]
reactant | 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-5-nitro-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=CC=C1)OCC)=O | C19H16N2O5
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | EtOH | CCO | C2H6O
product | 3-{1-ethoxy-1-phenylmethylidene}-5-nitro-2-indolinone | C(C)OC(C1=CC=CC=C1)=C1C(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C17H14N2O4
